US05753652
a) N-Morpholinocarbonyl-glycine-benzyl ester
Analogously to Example 7b), 7.69 g (22.8 mmol) of glycine-benzyl ester 4-toluenesulfonate and 2.8 g (19 mmol) of (morpholinocarbonyl)chloride in 118 ml of methylene chloride and 9 ml (53 mmol) of N-ethyldiisopropylamine are reacted for 18 h. The title compound is obtained in pure form after extraction with methylene chloride and digestion with hexane: tRet (I)=11.6 min.

reactant | glycine-benzyl ester 4-toluenesulfonate | 22.8 mmol, 7.69 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(CN)=O
reactant | (morpholinocarbonyl)chloride | 19 mmol, 2.8 g | O1CCN(CC1)C(=O)Cl | C5H8ClNO2
reactant | N-ethyldiisopropylamine | 53 mmol, 9 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 118 ml | C(Cl)Cl | CH2Cl2
product | N-Morpholinocarbonyl-glycine-benzyl ester | C(C1=CC=CC=C1)OC(CNC(=O)N1CCOCC1)=O | C14H18N2O4
